US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(1-naphthalenesulfonyl)-6-azaindole (8.9 mg, 43.2%);
from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-6-Azaindole (12 mg, 0.055 mmol), 1-naphthalenesulfonyl chloride (20.9 mg, 0.1 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (1 mL) at RT.

reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-6-Azaindole | 0.055 mmol, 12 mg | C1CCN2CC=C(CC12)C1=CNC2=CN=CC=C12 | C15H17N3
reactant | 1-naphthalenesulfonyl chloride | 0.1 mmol, 20.9 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1-(1-naphthalenesulfonyl)-6-azaindole | C1CCN2CC=C(CC12)C1=CN(C2=CN=CC=C12)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C25H23N3O2S
